US04414225
1-Ethyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine
This compound was prepared from 1-ethyl-4-chloro-2,3,6,7-tetrahydro-5-oximinomethylene-1H-azepine and phosphorus oxychloride analogous to Example E.

reactant | 1-ethyl-4-chloro-2,3,6,7-tetrahydro-5-oximinomethylene-1H-azepine | C(C)N1CCC(C(CC1)=C=NO)Cl | C9H15ClN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Ethyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine | C(C)N1CCC(=C(CC1)C#N)Cl | C9H13ClN2
